US07645882B2
0.5006 g of 1-(5-hydroxy-3-methyl-1-phenyl-1-H-pyrazol-4-yl)-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol was solved in 150 mL of methanol, and 2N of methanol hydrochloride (1.65 mL) was added and stirred. The solution was concentrated to about 20 mL, and when crystals were precipitate, 50 mL of ethanol was added and concentrated to substitute the crystal solvent, and continued this operation twice and concentrated to about 5 mL. This concentrated solution was stood to cool in refrigerator (4° C.) overnight, the precipitate was filtered off and dried in vacuum desiccator to give 1-(5-hydroxy-3-methyl-1-phenyl-1-H-pyrazol-4-yl)-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol hydrochloride (0.5011 g). Yield 90.0%. Appearance: crystal powder, pale yellow white. Melting point: 247-249° C. (browning melt).

reactant | 1-(5-hydroxy-3-methyl-1-phenyl-1-H-pyrazol-4-yl)-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol | 0.5006 g | OC1=C(C(=NN1C1=CC=CC=C1)C)C1OCC=2C=NC(=C(C21)O)C | C18H17N3O3
reactant | methanol hydrochloride | 2N, 1.65 mL | Cl.CO
solvent | methanol | 150 mL | CO | CH4O
product | 1-(5-hydroxy-3-methyl-1-phenyl-1-H-pyrazol-4-yl)-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol hydrochloride | 0.5011 g, Yield 90.0% | Cl.OC1=C(C(=NN1C1=CC=CC=C1)C)C1OCC=2C=NC(=C(C21)O)C | InChI=1S/C18H17N3O3.ClH/c1-10-14(18(23)21(20-10)13-6-4-3-5-7-13)17-15-12(9-24-17)8-19-11(2)16(15)22;/h3-8,17,22-23H,9H2,1-2H3;1H
